US07820707B2
a) (3-Trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-acetic acid
(3-Trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-acetic acid tert-butyl ester was dissolved in a solution of DCM (30 mL) and TFA (30 mL), and the resulting mixture stirred at RT for 30 min, before concentration in vacuo to afford the title compound (4.50 g). This was used directly in the next step without any further purification.

reactant | (3-Trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1N=C(C=2CCCCC12)C(F)(F)F)=O | C14H19F3N2O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (3-Trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-acetic acid | 4.50 g | FC(C1=NN(C=2CCCCC12)CC(=O)O)(F)F | C10H11F3N2O2
